Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Valium / Penicillins / Omeprazole Sodium
 
Attending: ___.
 
Chief Complaint:
massive epistaxis 
 
Major Surgical or Invasive Procedure:
Posterior nasal packing

 
History of Present Illness:
___ with hepatitis C (stage ___ fibrosis per liver bx in ___, 
HTN, GERD, depression presents with massive epistaxis. Pt notes 
acute onset of massive bilateral epistaxis last night at 7:30pm 
while sitting on the couch watching the baseball game. Would 
intermittently stop and then start again. No clear inciting 
event. No nasal trauma. No history of epistaxis. She does note 
increased rhinorrhea from her baseline over the past week or so 
but had not been excessively blowing her nose. She used her 
regular flunisolide nasal spray, no new medications or other 
nasal irritants. She was home alone with her daughter (has 
Down's syndrome) who was sleeping and so waited for her husband 
to come home. When he arrived ~20 minutes later, EMS was called. 
She admits to lightheadedness, heart burn, epigastric pain, 
"liver pain", but these are all chronic and unchanged. She has 
also been having loose, watery stools, most recently this 
morning, but also reports that this is unchanged.  
.  
In the ED, initial vitals were T 97.1, BP 172/100, HR 84, RR 16, 
SaO2 99% on RA. She was actively bleeding on arrival. Initially 
packed anteriorly but she continued to bleed. She was packed 
posteriorly with epistat, which successfully stopped her 
bleeding. Hct was stable at 34.9. Re bled, able to stop with 
packing. INR 1.2. She was also given dilt 20mg IV x 2 in the ED 
for elevated BP up to 216/18. Also received 2L IVF, ancef, and 
morphine for pain. Admitted to the MICU for close monitoring.  
.  
On arrival to the MICU, her main complaint is ___ pain in her 
face. She also complains of her chronic diffuse abdominal pain 
as well as feeling anxious and short of breath. Pt also c/o 
urinary retention, unable to void on multiple attempts, foley 
placed with 1.6L urine output  
.  
On ROS, she denies fever, chills, chest pain, cough, nausea, 
vomiting, constipation, urinary symptoms. 

 
Past Medical History:
PMH:
1.As above (Hep C  not a candidate for IFN due to depression)
2.HTN (poorly controlled)
3.dyslipidemia
4.PVD (L subclavian stenosis seen on CTA ___ and MRA ___
and RE arterial insufficiency)
5.Depression, requiring hospitalization in past
6.h/o polysubstance abuse and on-going alcohol and tobacco use. 
Drank 5 beers yesterday.
7.Hiatal hernia, s/p nissen fundoplication
8.GERD
9.s/p fundoplication 
___ def anemia
11.COPD
___
13.cervical spondylosis
14.h/o Schatzkis ring
___ early CAD  mother had MI at age ___, grandmother died of 
MI
and sister reportedly died of MI at age ___.colitis
17.h/o ARF
18.s/p CCY
19.urinary incontinence
20.insomnia

ALLERGIES:
1. Penicillin gives anaphylaxis.
2. Valium gives nausea, vomiting, and rash.
3. Codeine - unknown reaction.

 
Social History:
___
Family History:
Mom had myocardial infarction at age ___.
Mom also had diabetes mellitus.

 
Physical Exam:
Vitals: 98,0, 98.0, 143/68 [136-180/54-85], 89 [79-105], 18, 
94%RA  
General: fatigued, uncomfortable but in no acute distress  
HEENT: slightly dry MM, L nare packed with epistat in place, 
dried blood in bilateral nares, no evidence of active bleeding, 
OP clear  
Neck: supple, no cervical or supraclavicular LAD  
Heart: RRR, no m/r/g  
Lungs: CTAB, no w/r/r  
Abdomen: +BS, soft, nondistended, diffusely tender to palpation  

Extrem: no ___ edema, 2+ peripheral pulses  
Neuro: A+O x 3, grossly intact  

 
Pertinent Results:
4:10p Hct 29.1  
11:20a Hct. 28.9  
.  
___: 14.1 PTT: 25.3 INR: 1.2  
.  
137 102 14  
------------------< 102  
3.9 23 0.8  
.  
ALT: 98 AP: 130 Tbili: 0.4 Alb: 4.4  
AST: 123  
.  
MCV 93  
.     11.9  
6.5 >--------< 241  
.     34.9  
N:68.1 L:22.2 M:8.9 E:0.5 Bas:0.___ with HTN, GERD, Hep C, presents with acute onset massive 
epistaxis.  
.
Hospital Course by problems:
.  
# Epistaxis: Likely due to acute cocaine use (U tox positive 
although pt denies recent use). INR only mildly elevated at 1.2 
however pt likely has some degree of plt dysfunction and 
coagulopathy due to hepatitis and alcohol abuse. ENT placed 
posterior packing after pt bled through anterior packing. Pt was 
admitted for monitoring until packing could be removed in 5 
days. Pt was kept on continuous O2 sat and telemetry monitoring. 

- Initial hct in ED 34.9--> 28.9 on arrival to the MICU 
(baseline low ___. Transferred out of MICU on HD #2, and Hct 
remained stable ___. 
- Initally NPO x 24 hours, then advanced to regular diet, 
tolerated well.  
- Afrin PRN
- No evidence of pressure necrosis in the nasal ala
- prophylactic clindamycin while epistat in place for staph 
coverage  
.  
# HTN: HTN on initial presentation likely due to cocaine use and 
medication non-compliance at home. 
- Was initially controlled with IV dilt 20mg IV x 2 and her home 
dose of nifedipine in ED. Remained in good control (systolic 
120s) on home regimen subsequently.
.  
# GERD, hiatal hernia s/p ___: continued protonix per home 
regimen 
.  
# COPD: Stable. Lungs remained clear on exam without wheezing.  
- continued spiriva, advair, albuterol prn  
.  
# Polysubstance abuse: + U tox for Cocaine. Encouraged 
abstaining from substance use. Social work consult sought 
however pt resistant to intervention/sober program
 
Medications on Admission:
HCTZ 25mg PO daily  
Nifedipine SR 30mg PO dialy  
Valsartan 320mg PO daily  
Protonix 80mg PO BID  
Pregabalin 225mg PO BID  
Albuterol inhaler ___ puffs inhaled q ___ hours prn  
Flunisolide inhaler 29 mcg 2 spray each nostril BID  
Spiriva 18mcg inhaled daily  
Advair 500/50 1 puff BID  
Folate 1mg PO daily  
Iron 325mg PO TID  
Multivitamin PO daily  
Thiamine 100mg PO daily  
SLN prn  
Colace 100mg PO daily prn  

 
Discharge Medications:
1. Nifedipine 30 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO DAILY (Daily).  
2. Valsartan 160 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
3. Protonix 40 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO twice a day.  
4. Pregabalin 75 mg Capsule Sig: Three (3) Capsule PO BID (2 
times a day).  
5. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
Two (2) Puff Inhalation Q6H (every 6 hours) as needed.  
6. Flunisolide 250 mcg/Actuation Aerosol Sig: One (1)  
Inhalation once a day.  
7. Tiotropium Bromide 18 mcg Capsule, w/Inhalation Device Sig: 
One (1) Cap Inhalation DAILY (Daily).  
8. Fluticasone-Salmeterol 250-50 mcg/Dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
9. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO three times a 
day.  
10. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO TID (3 times a day).  
11. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
12. Thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
13. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day as 
needed for constipation.  
14. Nitroglycerin 0.3 mg Tablet, Sublingual Sig: One (1)  
Sublingual see below: q5 mins prn chest pain, upto 3 doses.  
15. Morphine 15 mg Tablet Sig: One (1) Tablet PO every ___ hours 
as needed for pain for 1 weeks.
Disp:*10 Tablet(s)* Refills:*0*
16. Terbinafine 1 % Cream Sig: One (1) Appl Topical BID (2 times 
a day) as needed for tinea pedis: apply to affected area on 
feet.
Disp:*1 largest tube* Refills:*2*
17. Ciprofloxacin 250 mg Tablet Sig: Two (2) Tablet PO Q12H 
(every 12 hours) for 2 doses.
Disp:*4 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
- Epistaxis
- Polysubstance abuse
- Hepatitis C
- GERD
- Depression

 
Discharge Condition:
good

 
Discharge Instructions:
You had a massive nose bleed. For this you had deep posterior 
packing, and given antibiotics. Your blood counts remained 
stable while this was going on. Please stop using cocaine as 
this probably caused the nose bleed, and can also lead to a 
nasal septum rupture.  Cocaine can also cause a heart attack and 
sudden death. 
.
No nose blowing or heavy lifting for 2 weeks. 
.
Your blood pressure was borderline low during your hospital stay 
on your regular blood pressure medications. This ___ be because 
we are giving you a strict low-salt diet. We stopped one 
medicine (hydrochlorothiazide) but we are keeping Valsartan and 
Nifedipine the same since extremely high blood pressure can 
precipitate nose bleeds.
If you feel lightheaded, please take your blood pressure and if 
it's low, call your doctor. 
.
If you begin having severe nose bleeds again that lasts > 30 
minutes despite afrin use, or you begin feeling light-headed and 
weak, return to the ED immediately.
.
Medication changes:
- Continue cipro for 2 more doses
- STOP hydrochlorothiazide
All other medications remain the same

 
Followup Instructions:
___